Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Pentasa / Imigran
 
Attending: ___
 
Chief Complaint:
myalgias, abdominal pain, fevers
 
Major Surgical or Invasive Procedure:
Colonoscopy with biopsies ___

 
History of Present Illness:
___ M with history of Crohn's disease, NASH/EtOH cirrhosis
(followed by Dr. ___, recent diagnosis of PSC at ___ presenting with worsening RUQ pain, anorexia, malaise. 

Patient reports that he first developed liver related symptoms 
in
___ when he was living in ___ and had acute onset of
jaundice, itching, presented to a hospital for these symptoms 
and
was treated (not sure with what) and had resolution of symptoms.
Following this, he had no issues until ___ when he developed
recurrence of RUQ pains, jaundice, anorexia, and was diagnosed
with NASH/EtOH cirrhosis. At that time he stopped drinking
completely and was without any further s/s related to his liver
until about three-four weeks prior to this admission. 

___ weeks ago, he developed worsening RUQ pain, anorexia, dark
urine, weight loss. He states these symptoms generally are worst
in the morning, associated with very poor appetite, nausea, 1
episode of vomiting. They improve in the afternoon. He has lost
about 10 lbs since the onset of these symptoms. 

He presented with these symptoms to ___ where he was
admitted from ___. There, he was noted to have 
transaminitis
with LFTs ranging from 1100-1300. He underwent cross-sectional
imaging reportedly with CT and MRI, and had a liver biopsy, was
diagnosed with PSC and was subsequently discharged on prednisone
taper and referred to liver at our hospital. 

The day of current presentation, he came in because of worsening
burning RUQ pain, myalgias, poor appetite. His appointment with
liver at ___ set for ___ but felt he couldn't wait that
long due to persistent symptoms. Formed stools q3d, no bloody or
jet black stools, no diarrhea. No recent antibiotics or travel.

No history of ascites, hepatic encephalopathy, SBP, varices. Has
never been on any medications for his cirrhosis. 

In the ED, labs were notable for:
-- CBC within normal limits 
-- Chem7 with Cr 1.1, HCO3 20
-- LFTs elevated at AST/ALT 421/992, AP 418, T bili 2.7 (direct
2.0), alb 4.1 
-- Coags: INR 1.0 
-- Lactate 1.4 
- RUQ U/S within normal limits 
- Patient was given: 1L NS, pantoprazole, morphine 4mg 

On arrival to the floor, patient endorses history described
above. 
 
Past Medical History:
Crohn's disease: diagnosed at age ___, reportedly treated with
prednisone at that time with complete remission of symptoms. Per
patient and his wife, apart from a flare in ___, he has
otherwise been without any symptoms from his Crohn's (has 
normal,
non bloody bowel movements, no abdominal pain). Despite this he
has had evidence of Crohn's on multiple colonoscopies and as a
result has been on various immunosuppressants- previously 
trialed
on Pentasa (no benefit), switched to azathioprine (severe side
effects), prednisone, budesonide, and most recently was
recommended to start Remicade and was planning to initiate this
soon. 
 
Social History:
___
Family History:
No history of liver disease, reports that his father was just
diagnosed with Crohn's in his ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: ___ 1838 Temp: 98.0 PO BP: 119/75 R Sitting HR: 60 RR:
16 O2 sat: 94% O2 delivery: Ra 
GENERAL: NAD, pleasant 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, tender to palpation in RUQ with minimal
hepatomegaly, tender in LUQ with palpable splenomegaly. 
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose. No
asterixis. 
SKIN: warm and well perfused, no excoriations or lesions, no
jaundice. 

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 2316)
    Temp: 98.3 (Tm 98.7), BP: 106/68 (104-120/68-76), HR: 55
(55-64), RR: 18 (___), O2 sat: 97% (95-97), O2 delivery: RA,
Wt: 170.4 lb/77.29 kg  
GENERAL: NAD, pleasant 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, soft, non-tender to palpation in all 4
quadrants 
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose. No
asterixis. 
SKIN: warm and well perfused, no excoriations or lesions, no
jaundice. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 10:13AM   WBC-9.1 RBC-4.80 HGB-14.7 HCT-42.6 MCV-89 
MCH-30.6 MCHC-34.5 RDW-13.4 RDWSD-43.9
___ 10:13AM   NEUTS-81.6* LYMPHS-7.2* MONOS-10.3 EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-7.44* AbsLymp-0.66* AbsMono-0.94* 
AbsEos-0.03* AbsBaso-0.03
___ 10:13AM   GLUCOSE-108* UREA N-11 CREAT-1.1 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-20* ANION GAP-16
___ 10:13AM   ALT(SGPT)-992* AST(SGOT)-421* ALK PHOS-418* 
TOT BILI-2.7* DIR BILI-2.0* INDIR BIL-0.7
___ 10:13AM   ALBUMIN-4.1 CALCIUM-9.7 PHOSPHATE-4.3 
MAGNESIUM-2.1
___ 10:13AM   AMA-NEGATIVE Smooth-NEGATIVE
___ 10:13AM   ___ CRP-11.7*
___ 10:13AM   IgG-693* IgA-260 IgM-46

DISCHARGE LABS
==============
___ 06:38AM BLOOD WBC-9.3 RBC-5.03 Hgb-15.5 Hct-45.7 MCV-91 
MCH-30.8 MCHC-33.9 RDW-13.2 RDWSD-43.9 Plt ___
___ 06:38AM BLOOD ___ PTT-31.4 ___
___ 06:38AM BLOOD Glucose-119* UreaN-16 Creat-1.0 Na-141 
K-4.8 Cl-103 HCO3-26 AnGap-12
___ 06:38AM BLOOD ALT-441* AST-155* AlkPhos-375* 
TotBili-1.1
___ 06:38AM BLOOD Calcium-9.5 Phos-4.2 Mg-2.1

RELEVANT IMAGING
=================
RUQ U/S ___
Normal abdominal ultrasound. No evidence of biliary dilatation, 
splenomegaly, or main portal vein thrombosis.

OSH MRCP ___
Liver: the liver demonstrates a stable configuration with 
hypertrophy of the left hepatic lobe and a shrunken right 
hepatic lobe. There is diffuse fatty infiltration of the liver. 
No enhancing mass. The spleen is within normal limits. 
Biliary: Gallbladder is nondistended. common bile duct is not 
dilated measuring approximate 5mm in diameter. No filling 
defects to suggest choledocholithiasis. No identifiable areas of 
structuring or bleeding along the CBD. The intrahepatic biliary 
ducts are suboptimally evaluated on MRCP images ___ motion 
artifact. No definite areas of structuring or beading of the 
duct within the confined of motion artifact. 
IMPRESSION: 
stable appearance of liver from ___
Mild fatty infiltration of the liver
Common bile duct within normal limits measuring 5mm. MRCP images 
are considered suboptimal secondary to respiratory motion 
artifact. No definite areas of structuring or beading of the 
biliary ducts within the confines of motion artifact. Follow up 
ERCP is a consideration to better evaluate the bile ducts. 

MRCP ___
1. T1 hyperintense filling defects within common hepatic duct, 
consistent with clot or stones, with mild left intrahepatic 
biliary ductal dilatation.  No irregularity of the biliary tree 
to suggest large duct PSC. 
2. Marked atrophy of the right hepatic lobe with compensatory 
hypertrophy of the left hepatic lobe and caudate. 
3. Moderate distention of the gallbladder with mild wall edema 
and mucosal 
irregularity, as well as edema tracking along the course of the 
CBD.  Findings raise concern for acute cholecystitis.  
Correlation with clinical symptoms is recommended, and HIDA 
could be considered for further evaluation. 
4. 1.9 cm cystic lesion along the base of the cecum, likely an 
appendiceal 
mucocele.  Surgical consultation (outpatient follow-up) is 
recommended. 
  
RECOMMENDATION(S): 
1. Consider HIDA scan for further evaluation of possible early 
acute 
cholecystitis. 
2. Surgical consultation (outpatient follow-up) is recommended 
for probable appendiceal mucocele. 

HIDA SCAN ___
Normal hepatobiliary scan.  No evidence of acute cholecystitis.

MR ENTEROGRAPHY ___
No evidence of active inflammatory bowel disease.

PROCEDURES
==========
COLONOSCOPY ___
Normal mucosa was noted in the whole colon. Multiple cold 
forceps biopsies were performed for histology in the whole 
colon. Few small ulcerations with no bleeding were noted in the 
terminal ileum. Multiple cold forceps biopsies were performed 
for histology. A 2x2 cm raised lesion over appendiceal orifice 
which appeared submucosal was carefully evaluated. Multiple cold 
forceps biopsies were performed for histology. A single sessile 
4mm non-bleeding polyp of benign appearance was found in the 
rectum. A single-piece polypectomy was performed using a cold 
forceps. The polyp was completely removed and retrieved.
 
Brief Hospital Course:
___ year old man with history of Crohn's disease (recently 
started on prednisone for endoscopic e/o disease), reported 
EToH/NASH cirrhosis (followed by Dr. ___ without 
prior decompensation, recent diagnosis of PSC after 
hospitalization at ___ (where he underwent MRCP 
and biopsy), who presented with worsening abdominal pain, 
anorexia, dark urine, weight loss, and labs with mixed 
cholestatic pattern/hepatitis. He was treated for suspected 
cholangitis, and given stability to mild improvement in his LFTs 
while inpatient and improvement in his abdominal pain, he was 
discharged for further workup as an outpatient.

TRANSITIONAL ISSUES
===================
[] Please obtain pathology slides from his recent liver biopsy 
at ___. The slides were sent to ___ for read, but we 
would like our own ___ pathologists to review the slides to 
help clarify the etiology of his underlying liver disease.
-- BWH path needed fax from ___ for permission to forward 
the slides (this was done, faxed to ___, attn: ___ or 
___.
-- ___ in the pathology department at ___ can be reached at 
___. She currently has the slides but could not be 
reached despite multiple attempts to call while the patient was 
in house.
-- If these slides cannot be obtained, he will likely need a 
repeat liver biopsy.
-- He carries diagnosis of ?ETOH/NASH/autoimmune cirrhosis 
(though conflicting data to support), ?PSC vs autoimmune 
hepatitis. Suspect that biopsy (as above) will help with 
diagnostic uncertainty.

[] He was discharged on cipro and flagyl for suspected 
cholangitis, with plans for a 14 day total course (last day 
___.

[] The patient will need repeat liver function tests within 1 
week of discharge. The results will be faxed to the ___ liver 
center.

ACTIVE ISSUES
=============
#PSC +/- autoimmune hepatitis 
#Suspected cholangitis 
Patient with hx of recurrent episodes of RUQ pain, jaundice, 
anorexia, first in ___, subsequently in ___ and now again in 
last month. No IVDU, recent travel, other exposures; no alcohol 
use since ___. He reported with these symptoms recently to ___. 
___ where he was found to have elevated transaminases to 
1000s, and imaging + biopsy findings consistent with PSC. After 
discharge from ___ he developed worsening symptoms and so 
re-presented here for further care. On admission, he had mild 
RUQ pain, but was without jaundice, asterixis, nausea, or 
vomiting. MRCP on ___ showed no irregularity of the biliary 
tree to suggest large duct PSC; but marked atrophy of the right 
hepatic lobe with compensatory hypertrophy of the left hepatic 
lobe and caudate. Autoimmune workup was notable for low IgG and 
IgM, otherwise with normal IgA, and negative ___, AMA, ___, 
ALKM. He was treated for suspected cholangitis, and his LFTs 
mildly improved (though were still elevated at time of 
discharge), and his pain significantly improved. He was 
discharged on cipro/flagyl, with plans for a ___espite multiple attempts to obtain the pathology slides 
from his recent admission to ___ (which were subsequently 
sent to ___), we were unable to reach the pathologist at ___ 
currently in possession of the slides. Given improvement in his 
symptoms and stability in his LFTs, he was discharged with plans 
for close outpatient follow up. If the slides cannot be 
obtained, he will likely need a repeat liver biopsy for further 
diagnostic clarification.

#Reported Hx of Alcoholic/NASH Cirrhosis
Per OSH records, patient has a history of fatty liver disease 
and
cirrhosis. Per OSH notes, "Liver biopsy ___ without cirrhosis
F2/4, more consistent with acute alcoholic hepatitis. Fibroscore
showed F4 fibrosis. More recent fibroscore with minimal 
steatosis
and minimal fibrosis." Will need to obtain slides from recent 
liver biopsy, as above. If he does truly carry a diagnosis of 
cirrhosis, he has no known prior decompensations. No ETOH use 
since ___, though he was previously drinking 3 beers most days, 
and occasionally ___ beers on weekends for ___ years.

#Crohn's Disease
Diagnosed at age ___, reportedly treated with prednisone at 
that time with complete remission of symptoms. Per patient and 
his wife, apart from a flare in ___, he has otherwise been 
without any symptoms from his Crohn's (has normal, non bloody 
bowel movements, no abdominal pain). Despite this he has had 
evidence of Crohn's on multiple colonoscopies and as a result 
has been on various immunosuppressants- previously trialed on 
Pentasa (no benefit), switched to azathioprine (severe side 
effects), prednisone, budesonide, and most recently was 
recommended to start Remicade and was planning to initiate this 
soon. Colonoscopy ___ showed small distal ileal ulcerations, 
but normal colon. MR enterography showed no evidence of active 
inflammation. His prednisone (which had been started a week 
before admission) was stopped this admission, and at the time of 
discharge, arrangements were being made for him to be seen in 
outpatient ___ clinic.

#Appendiceal mucocele seen on MRCP
Seen by CRS, they will schedule elective appendectomy as an 
outpatient, given potential for malignant transformation in the 
future.

CORE MEASURES:
==============
# CODE: FULL (confirmed)
# CONTACT: HCP is wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 40 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO BID 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*20 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*30 Tablet Refills:*0 
3.  TraMADol 50 mg PO Q6H:PRN Pain - Severe Duration: 4 Days 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0 
4.Outpatient Lab Work
Please obtain CBC, coags, BMP, and LFTs by ___ and fax 
results to the ___ at ___.
ICD10: ___.0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS 
================= 
Acute cholangitis 
Acute hepatitis 
 
SECONDARY DIAGNOSES 
=================== 
Crohn's disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to participate in your care.

WHY WAS I ADMITTED?
You were having abdominal pain, and had abnormal liver function 
tests.

WHAT HAPPENED WHILE I WAS HERE?

- You were treated for an infection in your bile system (called 
cholangitis) with antibiotics.

- You had an MRI of your bile system, which showed that you have 
an "appendiceal mucocele", which should be removed after you 
leave the hospital (as this has a risk of becoming cancerous in 
the future).

- You had a colonoscopy which showed some small ulcerations at 
the end of your small intestines, but your colon looked normal. 
Some samples were sent for biopsy.

- You had an MRI of your bowels, which showed no signs of active 
inflammatory bowel disease in your GI tract. We stopped your 
prednisone, and you should not restart it when you leave the 
hospital.

WHAT SHOULD I DO WHEN I GET HOME?

- Please continue taking your antibiotics as prescribed. You 
should continue taking the ciprofloxacin and metronidazole 
(Flagyl) for 10 more days as directed, until all pills are gone.

- Please see the ___, the IBD center, and the 
colorectal surgery team as an outpatient when you leave the 
hospital. We are working to schedule these appointments for you.

- Please call the ___ at ___ if you develop 
worsening abdominal pain or new jaundice, and consider coming 
back to the emergency room.

We wish you the best!

Sincerely,
Your ___ Liver Team
 
Followup Instructions:
___